US05051412
5-Methylpyrrolo[ 3,2-b]pyridine (Compound 7k)
A mixture of (6-methyl-3-nitro-2-pyridyl)-acetonitrile (1.83 g, 10.3 mmol),Raney nickel (0.20 g) and acetic acid/ethanol (3:7) was shaken under an atmosphere of hydrogen for 4 hours. The resulting mixture was filtered, and the filtrate was evaporated under reduced pressure. The residual oil was partitioned between saturated sodium hydrogen carbonate (25 mL) and ethyl acetate (25 mL). The organic layer was removed, and the aqueous layer was extracted with ethyl acetate (2×25 mL). The organic extracts were combined, dried (MgSO4), and evaporated under reduced pressure to yield a yellow solid. Column chromatography of this solid using silica gel (approx 50 g) and elution with 5% methanol in methylene chloride yielded Compound 7k (0.32 g, 2.4 mmol, 24%) as a tan solid: mp, 200°-202° C.; IR (KBr) 1610, 1570, 1465, 1445, 1405, 1290 cm-1 ; 1H NMR (DMSO-d6) δ 11.15 (br s, 1H), 7.65 (d,J=8.5 Hz, 1H), 7.54 (m, 1H), 6.95 (d, J=8.5 Hz, 1H), 6.45 (br m, 1H), 2.51 (s, 3H); 13 C NMR (DMSO-d6) 50.0, 145.7, 128.5, 126.6, 118.7, 116.0, 101.1, 24.2; Anal. calc'd for C8H8N2 ; C, 72.70; H, 6:10; N, 21.20; found: C, 72.22; H, 6.19; N, 21.25.

reactant | (6-methyl-3-nitro-2-pyridyl)-acetonitrile | 10.3 mmol, 1.83 g | CC1=CC=C(C(=N1)CC#N)[N+](=O)[O-] | C8H7N3O2
reactant | acetic acid ethanol | C(C)(=O)O.C(C)O
reactant | KBr | [K+].[Br-]
catalyst | Raney nickel | 0.20 g | [Ni] | Ni
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Methylpyrrolo[ 3,2-b]pyridine | CC1=CC=C2C(=N1)C=CN2 | C8H8N2
